datasets/RMG-dataset.csv
rxn,Ea
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25]([C:26]([C:27]([H:37])([H:38])[H:39])[c:28]1[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]([H:43])[c:33]1[H:44])([H:34])([H:35])[H:36]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][C:26]([C:25]([H:34])([H:35])[H:36])([C:27]([H:37])([H:38])[H:39])[c:28]1[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]([H:43])[c:33]1[H:44],59.8312
[C:0]1=[C:1]([H:7])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])=[C:6]1[H:13]>>[C:0]1([H:12])=[C:1]([H:7])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])([H:11])[C:5]=[C:6]1[H:13],112.25672
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20])([H:4])[H:5],50.208
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](#[C:17][C:18]([C:19]([H:22])([H:23])[H:24])[C:20]([H:25])([H:26])[H:27])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:18]([C:17]#[C:16][H:21])([C:19]([H:22])([H:23])[H:24])[C:20]([H:25])([H:26])[H:27])[H:9])[H:8],31.3382
[C:0]([C:1]([N:2]([H:7])[H:8])([H:5])[H:6])([H:3])[H:4].[H:9]>>[C:0]([C:1]([N:2]([H:7])[H:8])([H:5])[H:6])([H:3])([H:4])[H:9],0.0
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][O:28][H:29]>>[C:0]([C:1]([C:2]([C:3]1[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:16][O:27][O:28][H:29],43.932
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18](=[C:19]([H:21])[H:22])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[C:18](=[C:19]([H:21])[H:22])[H:20])[H:8],2.34304
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:0](=[S:1])[H:3].[H:2][C:5]([C:4]([H:7])([H:8])[H:9])([C:6]([H:11])([H:12])[H:13])[H:10],70.0402
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([C:13]([O:14][O:15])([H:21])[H:22])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][O:15][O:14][C:13]([C:12]([C:11]([H:16])([H:17])[H:18])([H:19])[H:20])([H:21])[H:22],85.60464
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([O:10][O:11])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][O:11][O:10][C:9]([H:12])([H:13])[H:14],56.6814848
[C:0]([C:1]([C:2]([O:3][O:4])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:9])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11],87.0272
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])([H:6])[H:7].[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])([H:9])[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17])[H:8])([H:6])[H:7],14.1838
[N:0]([O:1])([H:2])[H:3].[O:4][O:5][H:6]>>[H:2][O:4][O:5][H:6].[N:0](=[O:1])[H:3],-6.6944
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5][H:19])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21],85.60464
[C:0](=[O:1])([H:2])[H:3].[C:4]([H:5])[H:6]>>[C:0](=[O:1])[H:3].[H:2][C:4]([H:5])[H:6],0.0
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[C:16](=[C:17]([C:18]([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24])[H:8],64.4336
